US09403818B2
Preparation of methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-quinolizine-3-carboxylate
Piperidine (7 mL, 70.9 mmol) and acetic acid (5.5 mL, 95 mmol) were added to a solution of 2-(4-chloro-3-methylpyridin-2-yl)-2-cyclopropylacetaldehyde (4.98 g, 23.75 mmol) in absolute ethanol (200 mL). Dimethyl malonate (16.44 mL, 144 mmol) was added and the reaction mixture was stirred at 100° C. for 5 h (the reaction mixture turned into a red solution). The solvent was evaporated under reduced pressure. The resulting mixture was diluted with ether (100 mL) and washed with water (100 mL) and brine (50 mL). The organic layer was separated and dried over sodium sulfate. The mixture was evaporated to dryness. Dowtherm A (110 mL) was added. This reaction mixture was heated to 240° C. under microwave irradiation and stirred at this temperature for 0.5 h during which the reaction mixture turned into a black solution. The residue was purified by reversed phase flash chromatography using a 5%-100% ACN gradient in water with 1% TFA yielding the cyclized methyl ester (4 g, 51.4%).

reactant | Piperidine | 70.9 mmol, 7 mL | N1CCCCC1 | C5H11N
reactant | acetic acid | 95 mmol, 5.5 mL | C(C)(=O)O | C2H4O2
reactant | 2-(4-chloro-3-methylpyridin-2-yl)-2-cyclopropylacetaldehyde | 23.75 mmol, 4.98 g | ClC1=C(C(=NC=C1)C(C=O)C1CC1)C | C11H12ClNO
reactant | Dimethyl malonate | 144 mmol, 16.44 mL | C(CC(=O)OC)(=O)OC | C5H8O4
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-quinolizine-3-carboxylate | ClC=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C15H14ClNO3
